US04716238
Preparation of 3,4-dichloro-6-methoxy-7-isopropoxy-2,2-dimethyl-2H-chromene
A suspension of 2.64 g (10 millimoles) of 6-methoxy-7-isopropoxy-2,2-dimethyl-4-chromanone, 4.2 g (20 millimoles) of phosphorous pentachloride and 30 ml of carbon tetrachloride is stirred at 30° C. for 8 hours. The reaction mixture is evaporated and the residue is purified by crystallization from ethanol. Thus 3.8 g of the desired compound are obtained. Yield 60%. Mp.: 80°-85° C.

reactant | 6-methoxy-7-isopropoxy-2,2-dimethyl-4-chromanone | 10 millimoles, 2.64 g | COC=1C=C2C(CC(OC2=CC1OC(C)C)(C)C)=O | C15H20O4
reactant | phosphorous pentachloride | 20 millimoles, 4.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-dichloro-6-methoxy-7-isopropoxy-2,2-dimethyl-2H-chromene | 3.8 g, Yield 60% | ClC=1C(OC2=CC(=C(C=C2C1Cl)OC)OC(C)C)(C)C | C15H18Cl2O3
